US09102688B2
4-Fluoro-5-methyl-2-nitro-benzenesulfonic acid (Intermediate 452)
In a similar fashion using route 39 general procedure 95, 1,4-difluoro-2-methyl-5-nitrobenzene (1.2 g, 6.93 mmol) in EtOH (10 ml) and Na2SO3 (1.98 g, 15.7 mmol) in EtOH:water (40 ml:25 ml) at 70° C. for 16 h gave the title compound (1.2 g, 73%) which was used in the next step without purification.

reactant | 1,4-difluoro-2-methyl-5-nitrobenzene | 6.93 mmol, 1.2 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C | C7H5F2NO2
reactant | Na2SO3 | 15.7 mmol, 1.98 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 40 ml | O | H2O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-Fluoro-5-methyl-2-nitro-benzenesulfonic acid | 1.2 g, 73% | FC1=CC(=C(C=C1C)S(=O)(=O)O)[N+](=O)[O-] | C7H6FNO5S
